US07157604B2
A solution of 5-amino-2-butyl-4-chloro-6-fluoro-1-indanone (2.705 g, 10.6 mmol) in methanol (17 mL) was treated with sodium methoxide (0.5M solution in MeOH, 4.2 mL, 2.1 mmol) and methyl vinyl ketone (1.3 mL, 15.75 mmol). The resulting solution was stirred under a nitrogen atmosphere and heated in an oil bath at 45° C. for 21 hours. After cooling to room temperature, the mixture was filtered through a pad of silica gel and the filtrate was evaporated under vacuum to afford crude 5-amino-2-butyl-4-chloro-6-fluoro-2-(3-oxobutyl)-1-indanone.

reactant | 5-amino-2-butyl-4-chloro-6-fluoro-1-indanone | 10.6 mmol, 2.705 g | NC=1C(=C2CC(C(C2=CC1F)=O)CCCC)Cl | C13H15ClFNO
reactant | sodium methoxide | 2.1 mmol, 0.5M, 4.2 mL | C[O-].[Na+]
reactant | methyl vinyl ketone | 15.75 mmol, 1.3 mL | C(=C)C(=O)C | C4H6O
solvent | methanol | 17 mL | CO | CH4O
product | 5-amino-2-butyl-4-chloro-6-fluoro-2-(3-oxobutyl)-1-indanone | NC=1C(=C2CC(C(C2=CC1F)=O)(CCC(C)=O)CCCC)Cl | C17H21ClFNO2
